US04695575
A mixture of 4 parts of 5-(2-bromoethoxy)-1-methyl-1H-tetrazole, 5.5 parts of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimdazol-2-yl]methyl]-1-piperidineethanamine, 2.3. parts of sodium carbonate and 45 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured into water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol. The salt was filtered off and dried, yielding 1.3 parts (13%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]2-oxazolidinone ethanedioate(2:5); mp. 147.9° C. (385).

reactant | 5-(2-bromoethoxy)-1-methyl-1H-tetrazole | BrCCOC1=NN=NN1C | C4H7BrN4O
reactant | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimdazol-2-yl]methyl]-1-piperidineethanamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN | C22H27FN4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]2-oxazolidinone ethanedioate | 13% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN2C(OCC2)=O | InChI=1S/C25H29FN4O2.C2H2O4/c26-21-7-5-20(6-8-21)18-30-23-4-2-1-3-22(23)27-24(30)17-19-9-11-28(12-10-19)13-14-29-15-16-32-25(29)31;3-1(4)2(5)6/h1-8,19H,9-18H2;(H,3,4)(H,5,6)
